data/oMe_Silver.jsonl
{"reaction_id": "NR-334_1-C(C)(C)C_2-C1CCCCC1_3-c1ccc(Cl)cc1_4-CCC","level": "medium","name": "Ritter Reaction","reactants_smiles": ["N#CC(C)(C)C","OC(C1CCCCC1)(c1ccc(Cl)cc1)CCC"],"products_smiles": ["C(=O)(NC(C1CCCCC1)(c1ccc(Cl)cc1)CCC)C(C)(C)C"],"conditions": "H2SO4, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C1CCCCC1)(c1ccc(Cl)cc1)CCC","step_weight": 0,"rationale": "Protonation of the alcohol oxygen increases its leaving group ability by converting OH into water, a much better leaving group under acidic conditions."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](C1CCCCC1)(c1ccc(Cl)cc1)CCC","step_weight": 0,"rationale": "Loss of water generates a carbocation stabilized by adjacent alkyl groups through hyperconjugation and inductive effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(#[N+]C(C1CCCCC1)(c1ccc(Cl)cc1)CCC)C(C)(C)C","step_weight": 0,"rationale": "The nitrile nitrogen, being nucleophilic, attacks the carbocation, forming a nitrilium ion stabilized by resonance with the triple bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=NC(C1CCCCC1)(c1ccc(Cl)cc1)CCC)([OH2+])C(C)(C)C","step_weight": 0,"rationale": "Water, activated by the acidic medium, adds to the electrophilic carbon of the nitrilium ion, forming a protonated imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=NC(C1CCCCC1)(c1ccc(Cl)cc1)CCC)(O)C(C)(C)C","step_weight": 0,"rationale": "Deprotonation of the protonated imidate oxygen restores neutrality, yielding the neutral imidic acid form."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC(C1CCCCC1)(c1ccc(Cl)cc1)CCC)C(C)(C)C","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the imidic acid to the more thermodynamically stable amide via proton transfers."}],"description": "Under strong acid, the alcohol is protonated and loses water to form a stable carbocation. The nitrile attacks, forming an iminium intermediate, which is then hydrated and tautomerizes to the amide. Acid catalysis drives each step by stabilizing intermediates and activating electrophiles."}
{"reaction_id": "NR-106_1-CC(C)C_2-c1ccc(C#N)cc1_3-C(F)(F)F_4-C(C)C","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(CC(C)C)(c1ccc(C#N)cc1)[N+](=O)[O-]","C(C(F)(F)F)(C(C)C)=O","[OH-]"],"products_smiles": ["C(C(F)(F)F)(C(C)C)(O)C(CC(C)C)(c1ccc(C#N)cc1)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC(C)C)(c1ccc(C#N)cc1)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(F)(F)F)(C(C)C)([O-])C(CC(C)C)(c1ccc(C#N)cc1)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(C(C)C)(O)C(CC(C)C)(c1ccc(C#N)cc1)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
